US04512988
6-Amino-tetrahydro-5-oxo-1,4-thiazepine-4(5H)-acetic acid, ethyl ester, hydrochloride is reacted with (S)-N-[3-chloro-2-oxo-1-(phenylmethyl)propyl]benzamide according to the procedure of Example 1(h) to give tetrahydro-6-[[3-(benzoylamino)-2-oxo-4-phenylbutyl]amino]-5-oxo-1,4-thiazepine-4(5H)-acetic acid, ethyl ester.

reactant | 6-Amino-tetrahydro-5-oxo-1,4-thiazepine-4(5H)-acetic acid, ethyl ester, hydrochloride | Cl.NC1C(N(CCSC1)CC(=O)OCC)=O
reactant | (S)-N-[3-chloro-2-oxo-1-(phenylmethyl)propyl]benzamide | ClCC([C@H](CC1=CC=CC=C1)NC(C1=CC=CC=C1)=O)=O | C17H16ClNO2
product | tetrahydro-6-[[3-(benzoylamino)-2-oxo-4-phenylbutyl]amino]-5-oxo-1,4-thiazepine-4(5H)-acetic acid, ethyl ester | C(C1=CC=CC=C1)(=O)NC(C(CNC1C(N(CCSC1)CC(=O)OCC)=O)=O)CC1=CC=CC=C1 | C26H31N3O5S
